US04400509
N-trimethylsilyl-4-nitrobenzamide
4.5 ml of hexamethyldisilazane (22 mmoles) were added to a refluxing mixture of 5.0 g (30.1 mmoles) of 4-nitrobenzamide, 100 mg (0.5 mmole) of 1.8-naphthalimide and 20 ml of butyl acetate and the calculated amount of ammonia was evolved after refluxing for 35 minutes. The same experiment without catalyst was carried out and only 16% of the theoretical amount of ammonia was evolved after refluxing for 15 minutes. After refluxing for 1 hour, 83% of that amount of evolved.

reactant | hexamethyldisilazane | 22 mmoles, 4.5 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4-nitrobenzamide | 30.1 mmoles, 5.0 g | [N+](=O)([O-])C1=CC=C(C(=O)N)C=C1 | C7H6N2O3
reactant | 1.8-naphthalimide | 0.5 mmole, 100 mg | C=1C=C2C=CC=C3C2=C(C1)C(=O)NC3=O | C12H7NO2
reactant | ammonia | N | H3N
solvent | butyl acetate | 20 ml | C(C)(=O)OCCCC | C6H12O2
product | N-trimethylsilyl-4-nitrobenzamide | C[Si](NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)(C)C | C10H14N2O3Si
